US08309721B2
Synthesis of 2-[(pyridin-2-ylmethyl)amino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide
The process is carried out as in stage 3 of Example 3, but using 150 mg of 2-fluoro-4-[4-(quinolin-3-yl)carbazol-9-yl]benzonitrile, obtained according to stage 1 of Example 32, 150.5 mg of potassium carbonate and 0.785 g of 2-(aminomethyl)pyridine in 2 ml of dimethyl sulphoxide. 0.69 ml of a 1M aqueous solution of sodium hydroxide, 0.667 ml of a 30% aqueous solution of hydrogen peroxide and 3 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and ammonia as a 7M solution in methanol (from 90/10 to 80/20 by volume), followed by crystallization from 1 ml of ethyl acetate and 3 ml of diisopropyl ether, 95 mg of 2-[(pyridin-2-ylmethyl)amino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide are thus obtained in the form of a beige solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(quinolin-3-yl)carbazol-9-yl]benzonitrile | 150 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C28H16FN3
reactant | potassium carbonate | 150.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(aminomethyl)pyridine | 0.785 g | NCC1=NC=CC=C1 | C6H8N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-[(pyridin-2-ylmethyl)amino]-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzamide | N1=C(C=CC=C1)CNC1=C(C(=O)N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C34H25N5O
